US07737149B2
Methyl 2-(1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl)pyrimidine-5-carboxylate (960 mg, 3.01 mmol) and palladium, 10% on carbon (96 mg, 0.09 mmol) in ethanol (10 ml) and ethyl acetate (40.0 ml) were stirred under an atmosphere of hydrogen at atmospheric pressure and ambient temperature for 18 h. The reaction mixture was filtered through celite, washing with methanol, ethyl acetate and dichloromethane and concentrated under reduced pressure to give methyl 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)pyrimidine-5-carboxylate (966 mg, 100%) as a yellow oil, which crystallised on standing. This was used directly with no further purification.

reactant | Methyl 2-(1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl)pyrimidine-5-carboxylate | 3.01 mmol, 960 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC=C(C=N1)C(=O)OC | C16H21N3O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | 40.0 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | [Pd] | Pd
product | methyl 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)pyrimidine-5-carboxylate | 966 mg, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=C(C=N1)C(=O)OC | C16H23N3O4
